US04470930
In a continuous process, about 8 parts per hour of 4-fluoro-3-nitrobenzotrifluoride vapors and about 15 parts per hour of chlorine gas were passed simultaneously through a vapor phase reactor maintained at a temperature of about 320° C. and the reaction product vapors were condensed and collected. The process was continued until about 40 parts of 4-fluoro-3-nitrobenzotrifluoride had been passed through the reactor, yielding about 36.3 parts of 3-chloro-4-fluorobenzotrifluoride product. The structure of the product was confirmed by spectral analysis.

reactant | 4-fluoro-3-nitrobenzotrifluoride | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | chlorine | ClCl | Cl2
product | 3-chloro-4-fluorobenzotrifluoride | ClC=1C=C(C=CC1F)C(F)(F)F | C7H3ClF4
